US07745438B2
(R)-3-Benzyloxy-2-[(S)-2,2-bis-(2,2-dimethylpropoxy)-1-methylethylamino]-propan-1-ol
Add magnesium sulfate (30.23 g, 251.10 mmol) to (R)-2-amino-3-benzyloxypropan-1-ol (12.30 g, 67.87 mmol) and 1,1-bis-(2,2-dimethylpropoxy)-propan-2-one (23.45 g, 101.80 mmol) in tetrahydrofuran (100 mL) at room temperature and stir for 2 hours. Filter and concentrate. Dissolve in methanol (200 mL) and cool in an ice water bath. Add sodium cyanoborohydride (8.53 g, 135.73 mmol) and then acetic acid (4.08 g, 67.87 mmol) dropwise. Warm to room temperature, stir 2 hours and concentrate to −50 mL. Dilute with ethyl acetate (˜200 mL) and add water (˜50 ml) followed by 1 N sodium hydroxide (˜200 mL). Stir 20 minutes and dilute with saturated aqueous sodium chloride. Dry (sodium sulfate), filter and concentrate to give the title compounds.

reactant | magnesium sulfate | 251.10 mmol, 30.23 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | (R)-2-amino-3-benzyloxypropan-1-ol | 67.87 mmol, 12.30 g | N[C@H](CO)COCC1=CC=CC=C1 | C10H15NO2
reactant | 1,1-bis-(2,2-dimethylpropoxy)-propan-2-one | 101.80 mmol, 23.45 g | CC(COC(C(C)=O)OCC(C)(C)C)(C)C | C13H26O3
reactant | sodium cyanoborohydride | 135.73 mmol, 8.53 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 67.87 mmol, 4.08 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (R)-3-Benzyloxy-2-[(S)-2,2-bis-(2,2-dimethylpropoxy)-1-methylethylamino]-propan-1-ol | C(C1=CC=CC=C1)OC[C@@H](CO)N[C@H](C(OCC(C)(C)C)OCC(C)(C)C)C | C23H41NO4
